* Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\datasheets_and_models\simulations\GaNModels\FET_model_validation.asc
* Generated by LTspice 26.0.1 for Windows.
X§U1 N001 Vds 0 EPC2304 ;§pnba gatein)drainin)N_0
Vds Vds 0 100 AC 1 Rser=3.5m
Vgs N001 0 0 AC 1 Rser=0.4
* .dc Vds 0 5 0.01
.temp 25
.step param Vds 0 200 1
* .op
.ac lin 1 1Meg 1Meg
* Library below included based on ModelFile attribute of instance X§U1 (Z:\home\giorgio\Documenti\PolitoMaterial\Tesi\datasheets_and_models\simulations\GaNModels\EPCGaN.asy)
.lib EPCGanlibrary.lib
.backanno
.end
